US08309734B2
Step 1: 2-(4-Bromo-2,5-dichloro-phenoxy)-nicotinic acid
To a solution of 2-chloro-nicotinic acid (100 mg, 0.64 mmol, 1.0 equiv; [CAS RN 2942-59-8]) and 4-bromo-2,5-dichloro-phenol (184 mg, 0.76 mmol, 1.2 equiv; [CAS RN 1940-42-7]) in toluene (1 mL) was added caesium carbonate (517 mg, 1.59 mmol, 2.5 equiv; [CAS RN 534-17-8]) and tetrakis(acetonitrile)copper(I) hexafluorophosphate (47 mg, 0.13 mmol, 0.2 equiv; [CAS RN 64443-05-6]). The reaction mixture was heated by microwave irradiation to 140° C. for 1 h. The solvent was evaporated under reduced pressure and the crude reaction product taken up in water (100 mL) acidified to pH 1 by addition of a solution of 1 M HCl and extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and the product purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of dichloromethane/methanol affording 170 mg (73%) of the title compound as an off-white solid. 1H NMR (400 MHz, DMSO): δ7.21 (dd, J=−7.6 Hz, J=4.8 Hz, 1H), 7.42 (s, 1H), 7.76 (s, 1H), 8.29 (dd, J=4.8 Hz, J=1.9 Hz, 1H), 8.50 (dd, J=7.7 Hz, J=2.0 Hz, 1H). MS (ISN): 362.0 [M−H]−.

reactant | 2-chloro-nicotinic acid | 0.64 mmol, 100 mg, 1.0 equiv | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-bromo-2,5-dichloro-phenol | 0.76 mmol, 184 mg, 1.2 equiv | BrC1=CC(=C(C=C1Cl)O)Cl | C6H3BrCl2O
reactant | caesium carbonate | 1.59 mmol, 517 mg, 2.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 0.13 mmol, 47 mg, 0.2 equiv | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
product | 2-(4-Bromo-2,5-dichloro-phenoxy)-nicotinic acid | BrC1=CC(=C(OC2=C(C(=O)O)C=CC=N2)C=C1Cl)Cl | C12H6BrCl2NO3
